US08895572B2
Step E: tert-Butyl [(6S,8S)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-5,6,7,8-tetrahydroimidazo[1,2-a]pyridin-8-yl]carbamate
To a solution of crude tert-butyl {(3S,5S)-5-(2,3-difluorophenyl)-2-[(4,4,4-trifluoro-2-hydroxybutyl)imino]piperidin-3-yl}carbamate (99.0 mg, 0.219 mmol) in acetonitrile (2.19 mL) was added pyridinium dichromate (247 mg, 0.657 mmol), and the mixture was stirred 2.5 h at 60° C. Pyridinium dichromate (392 mg, 1.04 mmol) was added and the resulting mixture stirred 72 h at 60° C. Pyridinium dichromate (300 mg, 0.797 mmol) was added and the resulting mixture stirred 4 h at 60° C. The mixture was cooled to ambient temperature and saturated aqueous sodium bicarbonate was added. Water was added, and the mixture was extracted with ethyl acetate (3×). The combined organic extracts were washed with brine, dried over magnesium sulfate, filtered and concentrated. Purification by reverse phase chromatography (C-18, 95% water/acetonitrile→15% water/acetonitrile with 0.1% trifluoroacetic acid) gave the title compound (59 mg). MS 432.2 (M+1).

reactant | tert-butyl {(3S,5S)-5-(2,3-difluorophenyl)-2-[(4,4,4-trifluoro-2-hydroxybutyl)imino]piperidin-3-yl}carbamate | 0.219 mmol, 99.0 mg | FC1=C(C=CC=C1F)[C@@H]1C[C@@H](C(NC1)=NCC(CC(F)(F)F)O)NC(OC(C)(C)C)=O | C20H26F5N3O3
reactant | pyridinium dichromate | 0.657 mmol, 247 mg | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | Pyridinium dichromate | 1.04 mmol, 392 mg | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | Pyridinium dichromate | 0.797 mmol, 300 mg | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | Water | O | H2O
solvent | acetonitrile | 2.19 mL | C(C)#N | C2H3N
product | tert-Butyl [(6S,8S)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-5,6,7,8-tetrahydroimidazo[1,2-a]pyridin-8-yl]carbamate | 59 mg | FC1=C(C=CC=C1F)[C@@H]1C[C@@H](C=2N(C1)C(=CN2)CC(F)(F)F)NC(OC(C)(C)C)=O | C20H22F5N3O2
